US08530456B2
(S)-tert-butyl 3-((R)-2-hydroxy-2-phenylethylcarbamoyl)hex-5-enoate
To a solution of (S)-2-(2-tert-butoxy-2-oxoethyl)pent-4-enoic acid (0.947 g, 4.42 mmol) (described by Stanton, B. Z. et al. Nat. Chem. Biol. 2009, 5, 154-156) in DMF (31.6 mL) cooled in an ice/water bath was added EDC (1.27 g, 6.63 mmol) and HOBt (0.896 g, 6.63 mmol) and the resulting solution was stirred 30 min. (R)-2-amino-phenylethanol (0.667 g, 4.86 mmol), iPr2NEt (2.31 mL, 13.3 mmol) and DMAP (0.108 g, 0.884 mmol) were subsequently added and the reaction mixture was slowly warmed to rt and stirred for 16 h at which point LC-MS analysis indicated complete consumption of starting material. The reaction mixture was diluted with saturated NH4Cl and EtOAc and the layers separated. The aqueous was extracted 2× with EtOAc and the combined organic extracts were washed with 1 N HCl and brine, dried over Na2SO4, filtered, and concentrated. The crude product was purified using silica gel chromatography (MeOH/CH2Cl2 gradient) to yield 1.25 g of desired product as a light yellow oil in 85% yield. LRMS (M+Na)+: 356.2.

reactant | (S)-2-(2-tert-butoxy-2-oxoethyl)pent-4-enoic acid | 4.42 mmol, 0.947 g | C(C)(C)(C)OC(C[C@@H](C(=O)O)CC=C)=O | C11H18O4
reactant | EDC | 6.63 mmol, 1.27 g
reactant | HOBt | 6.63 mmol, 0.896 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-2-amino-phenylethanol | 4.86 mmol, 0.667 g | NC1=C(C=CC=C1)[C@@H](C)O | C8H11NO
reactant | iPr2NEt | 13.3 mmol, 2.31 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 31.6 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.884 mmol, 0.108 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-tert-butyl 3-((R)-2-hydroxy-2-phenylethylcarbamoyl)hex-5-enoate | 1.25 g, 85% yield | O[C@@H](CNC(=O)[C@H](CC(=O)OC(C)(C)C)CC=C)C1=CC=CC=C1 | C19H27NO4
